US07501412B2
1,3-Dimethyl-3H-pyrazolo[3,4-c]isoquinolin-5(4H)-one (10 g) was suspended in dimethylsulfoxide (100 mL), and sodium hydride (60%, 2.1 g) was added at room temperature. The mixture was stirred with heating at 70° C. for 2 hrs, and cooled to room temperature. Chloromethyl methyl ether (4.6 mL) was added, and the mixture was stirred at room temperature for 30 min. After the completion of the reaction, the reaction mixture was poured into ice-water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate, and the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=50:1) to give 1,3-dimethyl-5-methoxymethoxy-3H-pyrazolo[3,4-c]isoquinoline (10.6 g).

reactant | 1,3-Dimethyl-3H-pyrazolo[3,4-c]isoquinolin-5(4H)-one | 10 g | CC1=NN(C=2NC(C=3C=CC=CC3C21)=O)C | C12H11N3O
reactant | sodium hydride | 2.1 g | [H-].[Na+]
reactant | Chloromethyl methyl ether | 4.6 mL | COCCl | C2H5ClO
solvent | dimethylsulfoxide | 100 mL | CS(=O)C | C2H6OS
product | 1,3-dimethyl-5-methoxymethoxy-3H-pyrazolo[3,4-c]isoquinoline | 10.6 g | CC1=NN(C=2N=C(C=3C=CC=CC3C21)OCOC)C | C14H15N3O2
